US05322847
1. methyl 3-(5-fluorobenzothiazol-2-yl-transethenyl)benzoate
Using the procedure of Preparation El and starting with 5.65 g of 5-fluorobenzothiazol-2-ylmethyl triphenyl phosphonium chloride (prepared by reacting 4.0 g of 2-chloromethyl-5-fluorobenzothiazole and 5.22 g of triphenylphosphine in 50 ml of toluene at reflux temperature for 17 hours), 7.61 ml of 1.6M n-butyl lithium solution in hexane and 2.0 g of methyl 3-formylbenzoate in 80 ml of dry tetrahydrofuran there was obtained 2.92 g of the titled product, m.p. 172°-173° C.

reactant | 5-fluorobenzothiazol-2-ylmethyl triphenyl phosphonium chloride | 50 ml, 5.65 g | [Cl-].FC=1C=CC2=C(N=C(S2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1
reactant | n-butyl lithium | 1.6M, 7.61 ml | C(CCC)[Li]
reactant | methyl 3-formylbenzoate | 2.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | methyl 3-(5-fluorobenzothiazol-2-yl-transethenyl)benzoate | 2.92 g | FC=1C=CC2=C(N=C(S2)/C=C/C=2C=C(C(=O)OC)C=CC2)C1 | C17H12FNO2S
